US08648087B2
Step A: Preparation of 2-aminobenzene-1,4-diol:
To a solution of 2-nitrobenzene-1,4-diol (3.00 g, 19.34 mmol) in ethanol (100 mL) was added 10% palladium on carbon (0.600 g, 0.564 mmol). After shaking under 40 psi of hydrogen for 2 hours, the mixture was filtered and the filtrated was concentrated under reduced pressure to provide the product as solid.

reactant | 2-nitrobenzene-1,4-diol | 19.34 mmol, 3.00 g | [N+](=O)([O-])C1=C(C=CC(=C1)O)O | C6H5NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.564 mmol, 0.600 g | [Pd] | Pd
product | 2-aminobenzene-1,4-diol | NC1=C(C=CC(=C1)O)O | C6H7NO2
